US05130313
A solution of 1-(2-chloroethyl)-5,6-dihydro-(1H,4H)-1,2,5-thiadiazolo[4,3,2-ij]quinoline 2,2-dioxide (3.4 g), 4-(4-fluorophenyl)piperazine (2.25 g) and triethylamine (1.75 cc) in dry N,N-dimethylformamide (50 cc) is heated to reflux for 3 hours and is then cooled and poured into a mixture of water (300 cc) and ethyl acetate (300 cc). The organic phase is washed with water (3×200 cc), is dried over magnesium sulphate and is concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a column of silica gel (0.2-0.063-mm particle size, 4-cm diameter, 50-cm height) and eluted at a pressure of 0.7 bars of nitrogen with a mixture of cyclohexane and ethyl acetate (80-20 by volume), 125-cc fractions being collected. Fractions 33 to 43 are combined and concentrated to dryness under reduced pressure (2.7 kPa). After recrystallization from isopropyl ether (50 cc), 1 -[2-(4-(4-fluorophenyl)-1-piperazinyl)ethyl]-5,6-dihydro(1H,4H)-1,2,5-thiadiazolo[4,3,2-ij]quinoline 2,2-dioxide (0.85 g) is obtained, melting at 118° C.

reactant | 1-(2-chloroethyl)-5,6-dihydro-(1H,4H)-1,2,5-thiadiazolo[4,3,2-ij]quinoline 2,2-dioxide | 3.4 g | ClCCN1S(N2CCCC3=CC=CC1=C23)(=O)=O | C11H13ClN2O2S
reactant | 4-(4-fluorophenyl)piperazine | 2.25 g | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | triethylamine | 1.75 cc | C(C)N(CC)CC | C6H15N
reactant | water | 300 cc | O | H2O
solvent | N,N-dimethylformamide | 50 cc | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 300 cc | C(C)(=O)OCC | C4H8O2
product | 1 -[2-(4-(4-fluorophenyl)-1-piperazinyl)ethyl]-5,6-dihydro(1H,4H)-1,2,5-thiadiazolo[4,3,2-ij]quinoline 2,2-dioxide | 0.85 g | FC1=CC=C(C=C1)N1CCN(CC1)CCN1S(N2CCCC3=CC=CC1=C23)(=O)=O | C21H25FN4O2S
